US04203768
Hexadecanesulfonylchloride, which was prepared by the method as described in J. M. Sprague, et al., J. Amer. Chem. Soc., Vol. 59, page 1837 (1937), was reacted with 2-chloro-5-aminonitrobenzene in a chloroform solution in the presence of pyridine to prepare 2-chloro-5-hexadecanesulfonamidonitrobenzene.

reactant | 2-chloro-5-aminonitrobenzene | ClC1=C(C=C(C=C1)N)[N+](=O)[O-] | C6H5ClN2O2
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
reactant | 2-chloro-5-hexadecanesulfonamidonitrobenzene | ClC1=C(C=C(C=C1)NS(=O)(=O)CCCCCCCCCCCCCCCC)[N+](=O)[O-] | C22H37ClN2O4S
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | Hexadecanesulfonylchloride | C(CCCCCCCCCCCCCCC)S(=O)(=O)Cl | C16H33ClO2S
